US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-[(5-chloro-1-benzothiophen-3-yl)methyl]-5-fluoro-4-pyrimidineamine and 3-aminophenol were reacted to yield N4-[(5-chloro-1-benzothiophen-3-yl)methyl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.47 (bs, 1H), 9.33 (bs, 1H), 8.78 (bs, 1), 8.11 (d, 1H, J=2.1 Hz), 8.02 (d, 1H, J=J=8.7 Hz), 7.98 (d, 1H, J=4.5 Hz), 7.69 (s, 1H), 7.41 (dd, 1H, J=1.8, 8.1 Hz), 7.07 (bs, 1H), 6.92 (d, 1H, J=8.4 Hz), 6.82 (t, 1H, J=8.1 Hz), 6.34 (d, 1H, J=6.9 Hz), 4.80 (s, 1H), 4.78 (s, 1H); LCMS: ret. time: 23.32 min.; purity: 93%; MS (m/e): 402 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-N4-[(5-chloro-1-benzothiophen-3-yl)methyl]-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NCC1=CSC2=C1C=C(C=C2)Cl)F | C13H8Cl2FN3S
reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
product | N4-[(5-chloro-1-benzothiophen-3-yl)methyl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | ClC=1C=CC2=C(C(=CS2)CNC2=NC(=NC=C2F)NC2=CC(=CC=C2)O)C1 | C19H14ClFN4OS
